US04740507
7(a) (3S,4R)-4-{[(2S,4S)-2-Carbamoyl-1-[N-(p-nitrobenzyloxycarbonyl)acetimidoyl]pyrrolidin-4-ylthio]carbonylmethyl}-3-[1(R)-(p-nitrobenzyloxycarbonyloxy)ethyl]-1-[1-(p-nitrobenzyloxycarbonyl)-1-triisopropoxyphosphoranylidenemethyl]-2-azetidinone
454 mg (0.5 mmole) of (3S,4R)-4-{[(2S,4S)-2-carbamoyl-1-[N-(p-nitrobenzyloxycarbonyl)acetimidoyl]pyrrolidin-4-ylthio]carbonylmethyl}-3-[1(R)-(p-nitrobenzyloxycarbonyloxy)ethyl]-1-(p-nitrobenzyloxyoxalyl)-2-azetidinone and 520 mg (2.5 mmole) of triisopropyl phosphite were dissolved in 10 ml of toluene. The solution was heated in a stream of a nitrogen gas at 90° C. for 2 hours. The solvent was then distilled off under reduced pressure. The residue was subjected to chromatography using a Lobar column eluted with a 30:10:1 by volume mixture of ethyl acetate, chloroform and methanol, to afford 330 mg (yield 60%) of the title product as an oily substance.

reactant | (3S,4R)-4-{[(2S,4S)-2-carbamoyl-1-[N-(p-nitrobenzyloxycarbonyl)acetimidoyl]pyrrolidin-4-ylthio]carbonylmethyl}-3-[1(R)-(p-nitrobenzyloxycarbonyloxy)ethyl]-1-(p-nitrobenzyloxyoxalyl)-2-azetidinone | 0.5 mmole, 454 mg | C(N)(=O)[C@H]1N(C[C@H](C1)SC(=O)C[C@@H]1[C@H](C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O)[C@@H](C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C)=NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C39H37N7O17S
reactant | triisopropyl phosphite | 2.5 mmole, 520 mg | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (3S,4R)-4-{[(2S,4S)-2-Carbamoyl-1-[N-(p-nitrobenzyloxycarbonyl)acetimidoyl]pyrrolidin-4-ylthio]carbonylmethyl}-3-[1(R)-(p-nitrobenzyloxycarbonyloxy)ethyl]-1-[1-(p-nitrobenzyloxycarbonyl)-1-triisopropoxyphosphoranylidenemethyl]-2-azetidinone | 330 mg, yield 60% | C(N)(=O)[C@H]1N(C[C@H](C1)SC(=O)C[C@@H]1[C@H](C(N1C(=P(OC(C)C)(OC(C)C)OC(C)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)[C@@H](C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C)=NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C48H58N7O19PS
